US06172233B2
1-methyl-3-carbomethoxy-4-(4-fluorophenyl)-piperidine
A 2 molar solution of 4-fluorophenylmagnesium bromide in diethyl ether (5 ml, 2 molar equivalents) was stirred at −5 to −10° C. under nitrogen, and a solution of arecoline (0.78 g) in toluene (5.0 ml) added over 15 minutes at −5° C. The clear solution was stirred at −5° C. for 1 hour, then quenched by the addition of a mixture of water (25 ml) and concentrated hydrochloric acid (3 ml). Analysis of the aqueous phase by HPLC showed that yield of cis/trans 1-methyl-3-carbomethoxy-4-(4-fluorophenyl)-piperidine was about 905 mg (72 %).

reactant | 4-fluorophenylmagnesium bromide | FC1=CC=C(C=C1)[Mg]Br
reactant | arecoline | 0.78 g | CN1CCC=C(C1)C(=O)OC | C8H13NO2
solvent | diethyl ether | 2 molar, 5 ml | C(C)OCC | C4H10O
solvent | toluene | 5.0 ml | C1(=CC=CC=C1)C | C7H8
product | 1-methyl-3-carbomethoxy-4-(4-fluorophenyl)-piperidine | CN1CC(C(CC1)C1=CC=C(C=C1)F)C(=O)OC | C14H18FNO2
